US09302988B2
Step 2: Ethyl 1-benzyl-3-(4-chlorophenyl)-5-(trifluoromethyl)-1H-pyrrole-2-carboxylate
To a solution of ethyl 3-(4-chlorophenyl)-5-(trifluoromethyl)-1H-pyrrole-2-carboxylate (2.0 g, 6.30 mmol) in dry THF (20 mL) was added triphenylphosphine (1.899 g, 7.24 mmol) and benzyl alcohol (0.720 mL, 6.92 mmol). DIAD (1.373 mL, 6.92 mmol) in dry THF (5 mL) was added dropwise. The reaction mixture was stirred at room temperature for 1 h. THF was removed in vacuo. The crude product was dissolved in EtOAc (20 mL) and saturated NaHCO3 (40 mL) was added. The layers were separated and the aqueous layer was extracted with EtOAc (20 mL). The combined organic layer was washed with brine (50 mL) and dried over Na2SO4 and the solvent was evaporated. The residue was co-evaporated with DCM (10 mL) and then stirred in Et2O (20 mL) and the solids were filtered off. The filtrate was purified by column chromatography (silica, heptane/EtOAc, 3:1) to give 2.6 g (97%) the desired product as a yellow oil.

reactant | ethyl 3-(4-chlorophenyl)-5-(trifluoromethyl)-1H-pyrrole-2-carboxylate | 6.30 mmol, 2.0 g | ClC1=CC=C(C=C1)C1=C(NC(=C1)C(F)(F)F)C(=O)OCC | C14H11ClF3NO2
reactant | triphenylphosphine | 7.24 mmol, 1.899 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | benzyl alcohol | 6.92 mmol, 0.720 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | DIAD | 6.92 mmol, 1.373 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Ethyl 1-benzyl-3-(4-chlorophenyl)-5-(trifluoromethyl)-1H-pyrrole-2-carboxylate | 2.6 g, 97% | C(C1=CC=CC=C1)N1C(=C(C=C1C(F)(F)F)C1=CC=C(C=C1)Cl)C(=O)OCC | C21H17ClF3NO2
